US04707483
8-Methoxy-1-phenyl-2,3,4,5-tetrahydro-1H3-benzazepine hydrochloride (66 g, 0.23 m) was suspended in acetic acid (300 ml) and treated with bromine (43 g, 0.27 m). The mixture was heated to 95° for one hour, cooled and filtered. The filter cake was partitioned between ethyl acetate and ammonium hydroxide to afford 7-bromo-8-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 8-Methoxy-1-phenyl-2,3,4,5-tetrahydro-1H3-benzazepine hydrochloride | 66 g | Cl.COC=1C=CC2=C(C(CNCC2)C2=CC=CC=C2)C1
reactant | bromine | 43 g | BrBr | Br2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 7-bromo-8-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | BrC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1OC | C17H18BrNO
